US04596870
1-(3-Tolylsulfenyl)methyl-5-chloropyrimidin-2-one
Potassium tert-butoxide (20 mmol) in DMF (12 ml) was added to a solution of 5-chloro-pyrimidin-2-one hydrochloride (10 mmol) in DMF (60 ml). After stirring for 13 min, a solution of 3-chloromethylthiotoluene (10 mmol) in DMF (12 ml) was added. The resultant mixture was stirred at 60° C. for 3 h, the solvent distilled off at reduced pressure and the residue triturated and washed well with water before drying. The product was the N- and O-alkylated isomers in the ratio 7:5; yield: 1.71 g (64%). The N-isomer was isolated by its low solubility in ether in which the O-isomer is readily soluble; m.p. 134° C. (isoPrOH/EtOH). (Found C53.73; H4.25. Calc. for C12H11ClN2OS: C54.03; H4.16) 1H NMR (DMSO-d6): δ 2.27 (Me), 5.22 (CH2), 7.17 (Ph). 8.00 and 8.56 (H-4 and H-6, J 4 Hz). IR (KBr): 1660 cm-1 (CO). MS [70 eV, m/z (% rel. int.)]: 266/268 (6/2,M) 143/145 (100/32). MS [70 eV, m/z (% rel. int.)] : 266/268 (11/4,M, 137 (100).

reactant | Potassium tert-butoxide | 20 mmol | CC(C)([O-])C.[K+]
reactant | 5-chloro-pyrimidin-2-one hydrochloride | 10 mmol | Cl.ClC=1C=NC(NC1)=O
reactant | 3-chloromethylthiotoluene | 10 mmol | ClCSC=1C=C(C=CC1)C | C8H9ClS
reactant | KBr | [K+].[Br-]
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | isoPrOH EtOH | C(C)(C)O.CCO
product | 1-(3-Tolylsulfenyl)methyl-5-chloropyrimidin-2-one | C1(=CC(=CC=C1)SCN1C(N=CC(=C1)Cl)=O)C | C12H11ClN2OS
